US09388161B2
A mixture of (S)-methyl 6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.110 g, 0.366 mmol), 1-bromopropane (0.166 mL, 1.832 mmol), and potassium tert-butoxide (0.103 g, 0.916 mmol) in DMF (3.0 mL) was heated in a sealed tube at 100° C. After 24 h, additional 1-bromopropane (0.166 mL, 1.832 mmol) and potassium tert-butoxide (0.103 g, 0.916 mmol) were added and the mixture was heated in a sealed tube at 100° C. for 24 h. The reaction mixture was cooled to rt and water was added. The mixture was extracted with dichloromethane and the combined organic phases were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a yellow oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-25% ethyl acetate-hexane) to afford (S)-methyl 6-bromo-2-methyl-5-propoxy-3,4-dihydroquinoline-1 (2H)-carboxylate (0.120 g, 96%) as a colorless oil. MS (ESI, pos. ion) m/z 342, 344 [M+H]+.

reactant | (S)-methyl 6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.366 mmol, 0.110 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)O | C12H14BrNO3
reactant | 1-bromopropane | 1.832 mmol, 0.166 mL | BrCCC | C3H7Br
reactant | potassium tert-butoxide | 0.916 mmol, 0.103 g | CC(C)([O-])C.[K+]
reactant | 1-bromopropane | 1.832 mmol, 0.166 mL | BrCCC | C3H7Br
reactant | potassium tert-butoxide | 0.916 mmol, 0.103 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | (S)-methyl 6-bromo-2-methyl-5-propoxy-3,4-dihydroquinoline-1 (2H)-carboxylate | 0.120 g, 96% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OCCC | C15H20BrNO3
